### PR TITLE
[Merged by Bors] - feat: Fodor's lemma

### PR DESCRIPTION
**Pull request by vihdzp**
We define stationary sets and prove Fodor's lemma, following the proof at Wikipedia.

---

- [x] depends on: #39727

I'm surprised that this has a [Wikipedia article](https://en.wikipedia.org/wiki/Fodor%27s_lemma) but isn't listed in 1000.yaml. Is it just because the name has "lemma" instead of "theorem"?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Club.lean [hunk 1]
```diff
@@ -0,0 +1,215 @@
...
+proof_wanted isStationary_iff_not_isCofinal_compl (hα : Order.cof α ≤ ℵ₀) :
+    IsStationary s ↔ ¬ IsCofinal (sᶜ)
+
+/-- **Fodor's lemma,** or the **pressing down lemma:** if `α` has the order type of a regular
+cardinal, `s` is a stationary set, and `f : s → α` is a regressive function, there exists some
+stationary subset of `s` which is constant on `f`. -/
+theorem exists_isStationary_preimage_singleton [WellFoundedLT α] {f : s → α}
+    (hα' : ℵ₀ < Order.cof α) (hα : typeLT α ≤ (Order.cof α).ord)
+    (hs : IsStationary s) (hf : ∀ x : s, f x < x) :
+    ∃ a, IsStationary (Subtype.val '' (f ⁻¹' {a})) := by
```
Comment (staroperator) [inline Mathlib/SetTheory/Cardinal/Club.lean]: Would the non-dependent version
```lean4
theorem exists_isStationary_preimage_singleton [WellFoundedLT α] {f : α → α}
    (hα' : ℵ₀ < Order.cof α) (hα : typeLT α ≤ (Order.cof α).ord)
    (hs : IsStationary s) (hf : ∀ x ∈ s, f x < x) : ∃ a, IsStationary (s ∩ f ⁻¹' {a})
```
be more easier to use?

Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Club.lean]: Yeah, I think I like this version better.

File: Mathlib/SetTheory/Cardinal/Cofinality/Club.lean [hunk 2]
```diff
@@ -273,4 +322,18 @@ theorem isStationary_union_iff (hα : cof α ≠ ℵ₀) :
     IsStationary (s ∪ t) ↔ IsStationary s ∨ IsStationary t := by
   simpa using isStationary_sUnion_iff_of_countable (s := {s, t}) hα
 
+/-- **Fodor's lemma**, or the **pressing down lemma**: if `α` has the order type of a regular
+cardinal, `s` is a stationary set, and `f : α → α` is a regressive function on `s`, there exists
+some stationary subset of `s` which is constant on `f`. -/
+theorem exists_isStationary_preimage_singleton [IsRegularCardinalOrder α] {f : α → α}
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Club.lean:339]:
```suggestion
@[wikidata Q1119050]
theorem exists_isStationary_preimage_singleton [IsRegularCardinalOrder α] {f : α → α}
```

File: Mathlib/SetTheory/Cardinal/Cofinality/Club.lean [hunk 3]
```diff
@@ -273,4 +322,18 @@ theorem isStationary_union_iff (hα : cof α ≠ ℵ₀) :
     IsStationary (s ∪ t) ↔ IsStationary s ∨ IsStationary t := by
   simpa using isStationary_sUnion_iff_of_countable (s := {s, t}) hα
 
+/-- **Fodor's lemma**, or the **pressing down lemma**: if `α` has the order type of a regular
+cardinal, `s` is a stationary set, and `f : α → α` is a regressive function on `s`, there exists
+some stationary subset of `s` which is constant on `f`. -/
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Club.lean]:
```suggestion
some stationary subset of `s` on which `f` is constant. -/
```
no?

File: Mathlib/SetTheory/Cardinal/Cofinality/Club.lean [hunk 4]
```diff
@@ -142,6 +147,50 @@ theorem iInter_of_countable {ι : Sort*} {f : ι → Set α} [Countable ι] (hα
 protected theorem inter (hα : cof α ≠ ℵ₀) (hs : IsClub s) (ht : IsClub t) : IsClub (s ∩ t) := by
   simpa [hs, ht] using IsClub.sInter_of_countable (s := {s, t}) hα
 
+/-- Club sets are closed under diagonal intersections. -/
+protected theorem diag [IsRegularCardinalOrder α] {f : α → Set α} (hα : cof α ≠ ℵ₀)
+    (hf : ∀ a, IsClub (f a)) : IsClub {a | ∀ b < a, a ∈ f b} where
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Club.lean:153]: What's diagonal about this? Mayve worth giving the lemma a more syntactic name?

Comment (staroperator) [reply Mathlib/SetTheory/Cardinal/Cofinality/Club.lean:153]: It's called diagonal intersection in Kunen's book (page 220).
Image

Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Cofinality/Club.lean:153]: Yeah, this is one of those circumstances where I think a more explicit name would just obfuscate what the lemma says.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
